US07655600B2
(4,5-Dihydro-oxazol-2-yl)-[2-(4-fluoro-phenyl)-1-phenyl-ethyl]-amine
A solution of 2-(4-fluoro-phenyl)-1-phenyl-ethylamine (1.50 g) in THF was treated dropwise with 2-chloroethyl isocyanate (0.89 g) at 0° C. After stirring overnight at room temperature the solvent was evaporated and the residue dissolved in dimethoxy ethane (25 ml). DBU (1,8-diazabicyclo[5.4.0]undec-7-en) was added (1.78 g) and the reaction mixture heated under reflux for 1 hour. Column chromatography on silica yielded 1.3 g of the title compound.

reactant | 2-(4-fluoro-phenyl)-1-phenyl-ethylamine | 1.50 g | FC1=CC=C(C=C1)CC(C1=CC=CC=C1)N | C14H14FN
reactant | 2-chloroethyl isocyanate | 0.89 g | ClCCN=C=O | C3H4ClNO
solvent | THF | C1CCOC1 | C4H8O
product | (4,5-Dihydro-oxazol-2-yl)-[2-(4-fluoro-phenyl)-1-phenyl-ethyl]-amine | 1.3 g | O1C(=NCC1)NC(CC1=CC=C(C=C1)F)C1=CC=CC=C1 | C17H17FN2O
